// File: INVX1.spi.INVX1.pxi
// Created: Thu Jan 22 07:06:37 2026
// 
simulator lang=spectre
x_PM_INVX1\%GND ( GND N_GND_c_4_p N_GND_c_5_p N_GND_c_19_p N_GND_c_1_p \
 N_GND_c_2_p N_GND_M0_noxref_s )  PM_INVX1\%GND
x_PM_INVX1\%VDD ( VDD N_VDD_c_43_p N_VDD_c_44_p N_VDD_c_40_n N_VDD_c_41_n \
 N_VDD_M1_noxref_s N_VDD_M2_noxref_d )  PM_INVX1\%VDD
x_PM_INVX1\%A ( A A A A A A A N_A_c_99_n N_A_c_77_n N_A_c_81_n N_A_c_103_n \
 N_A_M0_noxref_g N_A_M1_noxref_g N_A_M2_noxref_g N_A_c_86_n N_A_c_124_p \
 N_A_c_88_n N_A_c_89_n N_A_c_112_n N_A_c_113_n N_A_c_91_n N_A_c_127_p \
 N_A_c_92_n N_A_c_94_n N_A_c_95_n )  PM_INVX1\%A
x_PM_INVX1\%Y ( Y Y Y Y Y Y Y N_Y_c_151_n N_Y_c_167_n N_Y_c_154_n N_Y_c_198_n \
 N_Y_c_172_n N_Y_c_175_n N_Y_c_158_n N_Y_c_176_n N_Y_M0_noxref_d \
 N_Y_M1_noxref_d )  PM_INVX1\%Y
cc_1 ( N_GND_c_1_p N_VDD_c_40_n ) capacitor c=0.00989514f //x=1.12 //y=0.175 \
 //x2=1.23 //y2=7.58
cc_2 ( N_GND_c_2_p N_VDD_c_41_n ) capacitor c=0.00989514f //x=2.09 //y=0.175 \
 //x2=1.97 //y2=7.58
cc_3 ( N_GND_c_1_p A ) capacitor c=0.0146622f //x=1.12 //y=0.175 //x2=1.23 \
 //y2=2.77
cc_4 ( N_GND_c_4_p N_A_c_77_n ) capacitor c=0.00249124f //x=1.97 //y=0.18 \
 //x2=1.23 //y2=2.265
cc_5 ( N_GND_c_5_p N_A_c_77_n ) capacitor c=0.00108343f //x=1.515 //y=0.715 \
 //x2=1.23 //y2=2.265
cc_6 ( N_GND_c_1_p N_A_c_77_n ) capacitor c=0.0100674f //x=1.12 //y=0.175 \
 //x2=1.23 //y2=2.265
cc_7 ( N_GND_M0_noxref_s N_A_c_77_n ) capacitor c=0.00297929f //x=0.985 \
 //y=0.55 //x2=1.23 //y2=2.265
cc_8 ( N_GND_c_4_p N_A_c_81_n ) capacitor c=0.00118266f //x=1.97 //y=0.18 \
 //x2=1.23 //y2=2.265
cc_9 ( N_GND_c_5_p N_A_c_81_n ) capacitor c=3.95714e-19 //x=1.515 //y=0.715 \
 //x2=1.23 //y2=2.265
cc_10 ( N_GND_c_1_p N_A_c_81_n ) capacitor c=0.00789228f //x=1.12 //y=0.175 \
 //x2=1.23 //y2=2.265
cc_11 ( N_GND_c_2_p N_A_c_81_n ) capacitor c=0.00230732f //x=2.09 //y=0.175 \
 //x2=1.23 //y2=2.265
cc_12 ( N_GND_M0_noxref_s N_A_c_81_n ) capacitor c=0.00476545f //x=0.985 \
 //y=0.55 //x2=1.23 //y2=2.265
cc_13 ( N_GND_c_5_p N_A_c_86_n ) capacitor c=0.0124814f //x=1.515 //y=0.715 \
 //x2=1.34 //y2=1.09
cc_14 ( N_GND_M0_noxref_s N_A_c_86_n ) capacitor c=0.0299684f //x=0.985 \
 //y=0.55 //x2=1.34 //y2=1.09
cc_15 ( N_GND_M0_noxref_s N_A_c_88_n ) capacitor c=0.002132f //x=0.985 \
 //y=0.55 //x2=1.34 //y2=1.745
cc_16 ( N_GND_c_1_p N_A_c_89_n ) capacitor c=0.00574171f //x=1.12 //y=0.175 \
 //x2=1.34 //y2=2.1
cc_17 ( N_GND_M0_noxref_s N_A_c_89_n ) capacitor c=0.00304786f //x=0.985 \
 //y=0.55 //x2=1.34 //y2=2.1
cc_18 ( N_GND_M0_noxref_s N_A_c_91_n ) capacitor c=0.00517463f //x=0.985 \
 //y=0.55 //x2=1.715 //y2=0.935
cc_19 ( N_GND_c_19_p N_A_c_92_n ) capacitor c=0.0134289f //x=2.005 //y=0.715 \
 //x2=1.87 //y2=1.09
cc_20 ( N_GND_M0_noxref_s N_A_c_92_n ) capacitor c=0.0153553f //x=0.985 \
 //y=0.55 //x2=1.87 //y2=1.09
cc_21 ( N_GND_M0_noxref_s N_A_c_94_n ) capacitor c=0.00629878f //x=0.985 \
 //y=0.55 //x2=1.87 //y2=1.435
cc_22 ( N_GND_c_5_p N_A_c_95_n ) capacitor c=2.1838e-19 //x=1.515 //y=0.715 \
 //x2=1.23 //y2=2.265
cc_23 ( N_GND_c_1_p N_A_c_95_n ) capacitor c=0.00695258f //x=1.12 //y=0.175 \
 //x2=1.23 //y2=2.265
cc_24 ( N_GND_M0_noxref_s N_A_c_95_n ) capacitor c=0.00659456f //x=0.985 \
 //y=0.55 //x2=1.23 //y2=2.265
cc_25 ( N_GND_c_1_p N_Y_c_151_n ) capacitor c=0.00520602f //x=1.12 //y=0.175 \
 //x2=1.6 //y2=1.935
cc_26 ( N_GND_c_2_p N_Y_c_151_n ) capacitor c=0.00285377f //x=2.09 //y=0.175 \
 //x2=1.6 //y2=1.935
cc_27 ( N_GND_M0_noxref_s N_Y_c_151_n ) capacitor c=0.0366224f //x=0.985 \
 //y=0.55 //x2=1.6 //y2=1.935
cc_28 ( N_GND_c_4_p N_Y_c_154_n ) capacitor c=0.00497604f //x=1.97 //y=0.18 \
 //x2=1.885 //y2=2.02
cc_29 ( N_GND_c_19_p N_Y_c_154_n ) capacitor c=0.00321695f //x=2.005 //y=0.715 \
 //x2=1.885 //y2=2.02
cc_30 ( N_GND_c_2_p N_Y_c_154_n ) capacitor c=0.0316773f //x=2.09 //y=0.175 \
 //x2=1.885 //y2=2.02
cc_31 ( N_GND_M0_noxref_s N_Y_c_154_n ) capacitor c=0.00565821f //x=0.985 \
 //y=0.55 //x2=1.885 //y2=2.02
cc_32 ( N_GND_c_4_p N_Y_c_158_n ) capacitor c=0.00998676f //x=1.97 //y=0.18 \
 //x2=1.6 //y2=1.185
cc_33 ( N_GND_c_5_p N_Y_c_158_n ) capacitor c=0.00124813f //x=1.515 //y=0.715 \
 //x2=1.6 //y2=1.185
cc_34 ( N_GND_c_19_p N_Y_c_158_n ) capacitor c=0.00130539f //x=2.005 //y=0.715 \
 //x2=1.6 //y2=1.185
cc_35 ( N_GND_c_2_p N_Y_c_158_n ) capacitor c=2.8029e-19 //x=2.09 //y=0.175 \
 //x2=1.6 //y2=1.185
cc_36 ( N_GND_M0_noxref_s N_Y_c_158_n ) capacitor c=0.0172844f //x=0.985 \
 //y=0.55 //x2=1.6 //y2=1.185
cc_37 ( N_GND_c_4_p N_Y_M0_noxref_d ) capacitor c=0.00119455f //x=1.97 \
 //y=0.18 //x2=1.415 //y2=1.09
cc_38 ( N_GND_c_2_p N_Y_M0_noxref_d ) capacitor c=2.70835e-19 //x=2.09 \
 //y=0.175 //x2=1.415 //y2=1.09
cc_39 ( N_GND_M0_noxref_s N_Y_M0_noxref_d ) capacitor c=0.0377642f //x=0.985 \
 //y=0.55 //x2=1.415 //y2=1.09
cc_40 ( N_VDD_c_40_n A ) capacitor c=0.0140262f //x=1.23 //y=7.58 //x2=1.23 \
 //y2=2.77
cc_41 ( N_VDD_c_43_p N_A_c_99_n ) capacitor c=5.73169e-19 //x=1.97 //y=7.58 \
 //x2=1.23 //y2=4.76
cc_42 ( N_VDD_c_44_p N_A_c_99_n ) capacitor c=5.48929e-19 //x=1.96 //y=7.585 \
 //x2=1.23 //y2=4.76
cc_43 ( N_VDD_c_40_n N_A_c_99_n ) capacitor c=0.00869686f //x=1.23 //y=7.58 \
 //x2=1.23 //y2=4.76
cc_44 ( N_VDD_M1_noxref_s N_A_c_99_n ) capacitor c=0.0218259f //x=1.03 //y=5.2 \
 //x2=1.23 //y2=4.76
cc_45 ( N_VDD_c_43_p N_A_c_103_n ) capacitor c=3.40755e-19 //x=1.97 //y=7.58 \
 //x2=1.23 //y2=4.88
cc_46 ( N_VDD_c_40_n N_A_c_103_n ) capacitor c=0.00851507f //x=1.23 //y=7.58 \
 //x2=1.23 //y2=4.88
cc_47 ( N_VDD_c_41_n N_A_c_103_n ) capacitor c=0.00235165f //x=1.97 //y=7.58 \
 //x2=1.23 //y2=4.88
cc_48 ( N_VDD_M1_noxref_s N_A_c_103_n ) capacitor c=0.00986169f //x=1.03 \
 //y=5.2 //x2=1.23 //y2=4.88
cc_49 ( N_VDD_c_44_p N_A_M1_noxref_g ) capacitor c=0.00753931f //x=1.96 \
 //y=7.585 //x2=1.385 //y2=6.2
cc_50 ( N_VDD_c_40_n N_A_M1_noxref_g ) capacitor c=0.021054f //x=1.23 //y=7.58 \
 //x2=1.385 //y2=6.2
cc_51 ( N_VDD_M1_noxref_s N_A_M1_noxref_g ) capacitor c=0.0573441f //x=1.03 \
 //y=5.2 //x2=1.385 //y2=6.2
cc_52 ( N_VDD_c_44_p N_A_M2_noxref_g ) capacitor c=0.00755544f //x=1.96 \
 //y=7.585 //x2=1.825 //y2=6.2
cc_53 ( N_VDD_M2_noxref_d N_A_M2_noxref_g ) capacitor c=0.0572684f //x=1.9 \
 //y=5.2 //x2=1.825 //y2=6.2
cc_54 ( N_VDD_c_41_n N_A_c_112_n ) capacitor c=0.0225829f //x=1.97 //y=7.58 \
 //x2=1.75 //y2=4.97
cc_55 ( N_VDD_c_40_n N_A_c_113_n ) capacitor c=0.00701819f //x=1.23 //y=7.58 \
 //x2=1.46 //y2=4.97
cc_56 ( N_VDD_c_41_n N_A_c_113_n ) capacitor c=2.63786e-19 //x=1.97 //y=7.58 \
 //x2=1.46 //y2=4.97
cc_57 ( N_VDD_M1_noxref_s N_A_c_113_n ) capacitor c=0.00524271f //x=1.03 \
 //y=5.2 //x2=1.46 //y2=4.97
cc_58 ( N_VDD_c_41_n Y ) capacitor c=0.0297606f //x=1.97 //y=7.58 //x2=1.97 \
 //y2=2.4
cc_59 ( N_VDD_c_43_p N_Y_c_167_n ) capacitor c=0.00259721f //x=1.97 //y=7.58 \
 //x2=1.605 //y2=5.42
cc_60 ( N_VDD_c_44_p N_Y_c_167_n ) capacitor c=0.00100699f //x=1.96 //y=7.585 \
 //x2=1.605 //y2=5.42
cc_61 ( N_VDD_c_41_n N_Y_c_167_n ) capacitor c=0.00295945f //x=1.97 //y=7.58 \
 //x2=1.605 //y2=5.42
cc_62 ( N_VDD_M1_noxref_s N_Y_c_167_n ) capacitor c=0.0480012f //x=1.03 \
 //y=5.2 //x2=1.605 //y2=5.42
cc_63 ( N_VDD_M2_noxref_d N_Y_c_167_n ) capacitor c=0.0486749f //x=1.9 //y=5.2 \
 //x2=1.605 //y2=5.42
cc_64 ( N_VDD_c_43_p N_Y_c_172_n ) capacitor c=0.00199795f //x=1.97 //y=7.58 \
 //x2=1.885 //y2=5.14
cc_65 ( N_VDD_c_44_p N_Y_c_172_n ) capacitor c=0.00207379f //x=1.96 //y=7.585 \
 //x2=1.885 //y2=5.14
cc_66 ( N_VDD_M2_noxref_d N_Y_c_172_n ) capacitor c=0.0235609f //x=1.9 //y=5.2 \
 //x2=1.885 //y2=5.14
cc_67 ( N_VDD_c_40_n N_Y_c_175_n ) capacitor c=0.00685597f //x=1.23 //y=7.58 \
 //x2=1.69 //y2=5.14
cc_68 ( N_VDD_c_43_p N_Y_c_176_n ) capacitor c=0.00241566f //x=1.97 //y=7.58 \
 //x2=1.605 //y2=5.56
cc_69 ( N_VDD_c_44_p N_Y_c_176_n ) capacitor c=0.0138017f //x=1.96 //y=7.585 \
 //x2=1.605 //y2=5.56
cc_70 ( N_VDD_c_40_n N_Y_c_176_n ) capacitor c=0.00824382f //x=1.23 //y=7.58 \
 //x2=1.605 //y2=5.56
cc_71 ( N_VDD_c_41_n N_Y_c_176_n ) capacitor c=0.00962126f //x=1.97 //y=7.58 \
 //x2=1.605 //y2=5.56
cc_72 ( N_VDD_M1_noxref_s N_Y_c_176_n ) capacitor c=0.092379f //x=1.03 //y=5.2 \
 //x2=1.605 //y2=5.56
cc_73 ( N_VDD_M2_noxref_d N_Y_c_176_n ) capacitor c=0.0935379f //x=1.9 //y=5.2 \
 //x2=1.605 //y2=5.56
cc_74 ( A Y ) capacitor c=0.111579f //x=1.23 //y=2.77 //x2=1.97 //y2=2.4
cc_75 ( N_A_c_99_n Y ) capacitor c=0.00718202f //x=1.23 //y=4.76 //x2=1.97 \
 //y2=2.4
cc_76 ( N_A_c_77_n Y ) capacitor c=0.00859794f //x=1.23 //y=2.265 //x2=1.97 \
 //y2=2.4
cc_77 ( N_A_c_81_n Y ) capacitor c=0.0023016f //x=1.23 //y=2.265 //x2=1.97 \
 //y2=2.4
cc_78 ( N_A_c_103_n Y ) capacitor c=0.00250262f //x=1.23 //y=4.88 //x2=1.97 \
 //y2=2.4
cc_79 ( N_A_c_112_n Y ) capacitor c=4.08297e-19 //x=1.75 //y=4.97 //x2=1.97 \
 //y2=2.4
cc_80 ( N_A_c_113_n Y ) capacitor c=0.00124564f //x=1.46 //y=4.97 //x2=1.97 \
 //y2=2.4
cc_81 ( N_A_c_95_n Y ) capacitor c=0.00112403f //x=1.23 //y=2.265 //x2=1.97 \
 //y2=2.4
cc_82 ( N_A_c_124_p N_Y_c_151_n ) capacitor c=0.0012792f //x=1.34 //y=1.435 \
 //x2=1.6 //y2=1.935
cc_83 ( N_A_c_88_n N_Y_c_151_n ) capacitor c=0.00561986f //x=1.34 //y=1.745 \
 //x2=1.6 //y2=1.935
cc_84 ( N_A_c_89_n N_Y_c_151_n ) capacitor c=0.00440271f //x=1.34 //y=2.1 \
 //x2=1.6 //y2=1.935
cc_85 ( N_A_c_127_p N_Y_c_151_n ) capacitor c=0.00967186f //x=1.715 //y=1.59 \
 //x2=1.6 //y2=1.935
cc_86 ( N_A_c_94_n N_Y_c_151_n ) capacitor c=0.00362207f //x=1.87 //y=1.435 \
 //x2=1.6 //y2=1.935
cc_87 ( N_A_M1_noxref_g N_Y_c_167_n ) capacitor c=0.00141266f //x=1.385 \
 //y=6.2 //x2=1.605 //y2=5.42
cc_88 ( N_A_M2_noxref_g N_Y_c_167_n ) capacitor c=0.00377331f //x=1.825 \
 //y=6.2 //x2=1.605 //y2=5.42
cc_89 ( N_A_c_127_p N_Y_c_154_n ) capacitor c=0.00180253f //x=1.715 //y=1.59 \
 //x2=1.885 //y2=2.02
cc_90 ( N_A_c_95_n N_Y_c_198_n ) capacitor c=0.00440271f //x=1.23 //y=2.265 \
 //x2=1.685 //y2=2.02
cc_91 ( N_A_M2_noxref_g N_Y_c_172_n ) capacitor c=0.00966342f //x=1.825 \
 //y=6.2 //x2=1.885 //y2=5.14
cc_92 ( N_A_M1_noxref_g N_Y_c_175_n ) capacitor c=0.00534267f //x=1.385 \
 //y=6.2 //x2=1.69 //y2=5.14
cc_93 ( N_A_c_112_n N_Y_c_175_n ) capacitor c=0.00262283f //x=1.75 //y=4.97 \
 //x2=1.69 //y2=5.14
cc_94 ( N_A_c_86_n N_Y_c_158_n ) capacitor c=0.00187726f //x=1.34 //y=1.09 \
 //x2=1.6 //y2=1.185
cc_95 ( N_A_c_124_p N_Y_c_158_n ) capacitor c=0.00414335f //x=1.34 //y=1.435 \
 //x2=1.6 //y2=1.185
cc_96 ( N_A_c_91_n N_Y_c_158_n ) capacitor c=5.57924e-19 //x=1.715 //y=0.935 \
 //x2=1.6 //y2=1.185
cc_97 ( N_A_c_127_p N_Y_c_158_n ) capacitor c=5.75878e-19 //x=1.715 //y=1.59 \
 //x2=1.6 //y2=1.185
cc_98 ( N_A_c_92_n N_Y_c_158_n ) capacitor c=0.00160969f //x=1.87 //y=1.09 \
 //x2=1.6 //y2=1.185
cc_99 ( N_A_c_94_n N_Y_c_158_n ) capacitor c=0.00411132f //x=1.87 //y=1.435 \
 //x2=1.6 //y2=1.185
cc_100 ( N_A_M1_noxref_g N_Y_c_176_n ) capacitor c=0.0162066f //x=1.385 \
 //y=6.2 //x2=1.605 //y2=5.56
cc_101 ( N_A_M2_noxref_g N_Y_c_176_n ) capacitor c=0.0162066f //x=1.825 \
 //y=6.2 //x2=1.605 //y2=5.56
cc_102 ( N_A_c_112_n N_Y_c_176_n ) capacitor c=0.00290963f //x=1.75 //y=4.97 \
 //x2=1.605 //y2=5.56
cc_103 ( N_A_c_86_n N_Y_M0_noxref_d ) capacitor c=0.00137914f //x=1.34 \
 //y=1.09 //x2=1.415 //y2=1.09
cc_104 ( N_A_c_124_p N_Y_M0_noxref_d ) capacitor c=0.0023891f //x=1.34 \
 //y=1.435 //x2=1.415 //y2=1.09
cc_105 ( N_A_c_91_n N_Y_M0_noxref_d ) capacitor c=0.0020782f //x=1.715 \
 //y=0.935 //x2=1.415 //y2=1.09
cc_106 ( N_A_c_127_p N_Y_M0_noxref_d ) capacitor c=0.00356097f //x=1.715 \
 //y=1.59 //x2=1.415 //y2=1.09
cc_107 ( N_A_c_92_n N_Y_M0_noxref_d ) capacitor c=0.00138452f //x=1.87 \
 //y=1.09 //x2=1.415 //y2=1.09
cc_108 ( N_A_c_94_n N_Y_M0_noxref_d ) capacitor c=0.00235934f //x=1.87 \
 //y=1.435 //x2=1.415 //y2=1.09
